US04200644
A stirred solution of 40.0 grams (0.25 mole) of phenylthiomethyl chloride and 58.2 grams (0.35 mole) of triethylphosphite was heated at 150°-160° C. for 4 hours, cooled and excess triethylphosphite removed by evaporation under reduced pressure. The residue was purified by distillation to give 61.1 grams (93.1%) of diethyl phenylthiomethylphosphonate; b.p. 155° C./0.6 mm. The nmr and the ir spectra were consistent with the assigned structure.

reactant | phenylthiomethyl chloride | 0.25 mole, 40.0 grams | C1(=CC=CC=C1)SCCl | C7H7ClS
reactant | triethylphosphite | 0.35 mole, 58.2 grams | C(C)OP(OCC)OCC | C6H15O3P
product | diethyl phenylthiomethylphosphonate | 61.1 grams, 93.1% | C1(=CC=CC=C1)SCP(OCC)(OCC)=O | C11H17O3PS
